Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___
 
Chief Complaint:
Shortness of Breath
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Ms. ___ is a ___ yo F w/hx of afib on coumadin, COPD, MR, TR 
who presented on ___ from her nursing home with falls and 
questionable left facial droop.  She was initially a code stroke 
in the ED.  She was evaluated by neurology who determined that 
she did not have a stroke and she did not require further 
neurologic evaluation.  She had CT head noncon and CTA 
head/neck, both were negative. She also had a negative urine and 
CXR except cardiomegaly.  On admission she required 3L NC.  Over 
the course of her hospitalization she has developed worsening 
hypoxia so that in the evening of ___ she required 100% 
facemask.  She was given 40mg IV Lasix and urinated 1700ml and 
improved to 2L NC.  CTA done overnight showed no PE but did show 
bileratal pleural effusions L>R with LLL collapse and 
mediastinal lymphadenopathy.  Over the course of the day on 
___ she again had worsening oxygen requirement and developed 
worsening tachycardia with afib and RVR.  Blood pressure was 
stable in the 130s-140s/80s-90s.
.
On arrival to the ICU, she is breathing comfortably. She denies 
shortness of breath, chest pain, palpitations.  She has not had 
fevers, chills or night sweats.  She has no cough.
.
Review of systems: 
(+) Per HPI
(-) Denies fever, chills, night sweats, recent weight loss or 
gain. Denies headache, sinus tenderness, rhinorrhea or 
congestion. Denies cough, shortness of breath, or wheezing. 
Denies chest pain, chest pressure, palpitations, or weakness. 
Denies nausea, vomiting, diarrhea, constipation, abdominal pain, 
or changes in bowel habits. Denies dysuria, frequency, or 
urgency. Denies arthralgias or myalgias. Denies rashes or skin 
changes. 

 
Past Medical History:
-Afib on warfarin  
-Chronic leukocytosis and thrombocytosis  
-COPD  
-Mitral and tricuspid regurgitation  
-Chronic gait instability  
-HTN  
-Depression  
-s/p back surgery for tumor resection on spinal cord. Did not 
received chemo or radiation per son.  
-Spinal stenosis  
-Hysterectomy  
-Osteoporosis  
-GERD  
 
Social History:
___
Family History:
Family Hx: son with CAD s/p MI  
 
Physical Exam:
Vitals: T: BP: P: R: 18 O2:  
General: Alert, oriented, breathing in the ___ without clear 
distress
HEENT: Sclera anicteric, MMM, oropharynx clear
Neck: supple, JVP not elevated, no LAD
Lungs: Decreased breath sounds at the bases bilaterally, L 
moreso than R side. No crackles or wheezes.
CV: Tachycardic, irregular, no mumurs appreciated.
Abdomen:  soft, non-tender, non-distended, bowel sounds present, 
no rebound tenderness or guarding, no organomegaly
GU: + foley
Ext: warm, well perfused, 2+ pulses, R leg wrapped in bandages.

 
Pertinent Results:
___ 06:24PM URINE  HOURS-RANDOM
___ 06:24PM URINE  UHOLD-HOLD
___ 06:24PM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 06:24PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-5.0 
LEUK-NEG
___ 05:38PM   GLUCOSE-112* UREA N-23* CREAT-1.0 SODIUM-144 
POTASSIUM-4.2 CHLORIDE-108 TOTAL CO2-24 ANION GAP-16
___ 05:38PM   estGFR-Using this
___ 05:38PM   WBC-20.3* RBC-6.11* HGB-10.7* HCT-38.6 
MCV-63* MCH-17.6* MCHC-27.8* RDW-19.3*
___ 05:38PM   PLT COUNT-657*
___ 05:38PM   ___ PTT-31.7 ___
 
Brief Hospital Course:
Patient transferred to ICU with worsening hypoxia and afib with 
RVR.

1. Hypoxia:  On admission patient had a new oxygen requirement, 
3L nasal cannula, while at baseline she was on room air.  
Throughout her admission, patient denied shortness of breath but 
did complain of fatigue.  Given her rapid heart rate, the 
patient underwent a CTA to rule out PE.  CTA showed bilateral 
pleural effusions with LLL collapse, but no PE.  Given CTA 
findings her initial presentation was thought to be secondary to 
heart failure, possibly exacerbated by a fib w/ RVR and she was 
diuresed with po lasix.  CTA did show extensive mediastinal 
lymphadenopathy and so infectious vs. malignant etiologies were 
considered.  
.
Over the course of her hospitalization, she required two 
admissions to the MICU.  On ___ she decompensated with 
hypoxia and A-fib with RVR with a question of aspiration event. 
Her a-fib was managed by increasing metoprolol dose and digoxin 
loading/maintenance with good HR (70s-80s) and BP control 
(110-120s).  Given the rise in WBC, she was started and 
completed an 8 day course for HCAP with vanc and zosyn.  She was 
diuresed in the with iv lasix.  A TEE was done that showed 
diastolic dysfunction and BNP was elevated to 10K.  CE were 
trended but were flat.  She was transferred to the floor for 
further management. 
.
On the floor patient improved with diuresis and antibiotic 
course.  Her leukocytosis also downtrended.  Speech and swallow 
consulted who did not see si/sx of aspiration.  However, there 
remained concern that patient was aspirating and she was placed 
on aspiration precautions.  She had another episode of hypoxia 
with afib and RVR requiring NRB; ABG on NRB showed 7.52/36/65/30 
with lactate 4.8.  She was transferred to the MICU a second 
time.  A repeat Chest CT was concerning for right middle lobe 
pneumonia, patient weaned off to nasal cannula and lactate 
trended down.  Patient was diuresed and transferred back to the 
floor.  On ___, patient spiked a fever, and was started on iv 
meropenem and vanc for an 8 day course of aspiration pneumonia, 
and pan-cultured.  She improved with antibiotics and 
defervesced.  Urine and blood culture showed no growth on 
discharge.
.
Patient was managed with chest ___ and aggressive pulmonary 
toilet.  Pulmonology was consulted, who agreed with management 
of antibiotics, diuresis, and BP/rate control.  Given her 
anatomy thoracentesis thought to be unlikely to result in 
re-expansion of her left lung.  Goals of care were discussed 
further with patient.  Patient decided that further MICU 
transfers were not align with her goals of care and decided to 
be DNI.  Patient was discharged to nursing facility with plans 
to transition to hospice care.  Ultimately decision was made 
with family and patient for do not hospitalize as this would not 
be consistent with patient's goals of care.
- Continue iv vanc and meropenem until ___ to complete 8 
day course
- Continue nasal cannula, wean as tolerated
- Patient has decided to be: DNR/DNI/DNH
.
2. Afib with RVR: This may have been precipitated by lung 
etiology given hypoxia.  Blood pressure was initially stable 
though dipped into the low 100s systolic.  She was on Metoprolol 
on admission which was increased to 75mg PO TID.  Patient had 
several episodes of RVR to 160s which were managed with gentle 
bolus, with minimal response, then IV metoprolol and IV dilt.  
She was ruled out for an MI, and infectious work up was 
revealing for pneumonia.  Her coumadin was initially held given 
her history of falls.  This was restarted during her 
hospitalization.  However, as patient remained hypoxic and weak, 
further discussions regarding risk/benefit of coumadin were had 
with patient and son. Ultimately, the immediate risks of bleed 
were thought to outweigh the long-run benefits. Coumadin was 
stopped on discharge.
- Hold metoprolol or diltiazam if SBP<100, HR<60
.
3. Acute Heart Failure: CT scans notable for bilateral pleural 
effusions. A TTE was done that showed EF 55%, RV moderately 
dilated with mild global free wall hypokinesis. CE were 
negative.  She was maintained with lasix, bb, ccb, and digoxin.  
She was transitioned from iv lasix to 40mg PO lasix, to keep net 
even to 500cc net negative.
- Suspect that lasix dose will need to be reduced.  When patient 
stops iv antibiotics please determine new lasix dose by PO 
intake and fluid status.  Consider reducing dose back to home 
dose of 10mg daily.
.
4. Extensive Mediastinal Lymphadenopathy: This was seen on CTA 
and the differential thought to include infection vs. 
malignancy.  On repeat imaging, there was small improvement in 
lymphadenopathy after diuresis and antibiotic treatment.  
Pulmonology consulted and given goals of care (as stated above), 
further invasive work up was not in line with patient's wishes.  
As stated above she spiked a temp ___ and was pan-cultured and 
started on ___ x8days for aspiration pna.
.
5. Leukocytosis: Seen by hematologist Dr. ___ at ___, 
with leukocytosis in the past in ___.  Throughout her 
admission, WBC ranged from 9 to 30 w/ primarily PMN diff (90s).  
She was treated for pneumonia infection with two course of 
antibiotics which improved her leukocytosis.
.
6. Thrombocytosis: It was confirmed w/ her outpatient 
hematologist that patient has a known JACK2 mutation by PCR.  
She was continued on Hydroxyurea 3 days per week.
 
Medications on Admission:
1. Omeprazole 40 mg daily  
2. Aspirin 81 mg daily  
3. Mirtazapine 45 mg QHS  
4. Escitalopram 20 mg daily  
5. Tiotropium Bromide 18 mcg inh daily  
6. Fluticasone-Salmeterol 250-50 mcg/Dose inh BID  
7. Metoprolol 50 mg BID  
8. Diltiazem 120 mg daily  
9. Coumadin 4 mg daily  
10. Cephalexin 500mg TID (started pm of ___  
11. APAP 650mg q4h prn  
12. Colace 100mg BID  
13. Hydroxyurea 500mg ___  
14. MVI daily  
15. Senna 2 tabs QHS  
16. Milk of Mg 30ml QID prn  
17. Furosemide 10mg daily  
.

 
Discharge Medications:
1. Omeprazole 20 mg Capsule, Delayed Release(E.C.) Sig: Two (2) 
Capsule, Delayed Release(E.C.) PO DAILY (Daily).  
2. Mirtazapine 15 mg Tablet Sig: Three (3) Tablet PO HS (at 
bedtime).  
3. Escitalopram 10 mg Tablet Sig: Two (2) Tablet PO DAILY 
(Daily).  
4. Digoxin 125 mcg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

5. Metoprolol Tartrate 25 mg Tablet Sig: Three (3) Tablet PO TID 
(3 times a day).  
6. Diltiazem HCl 120 mg Capsule, Sust. Release 24 hr Sig: One 
(1) Capsule, Sust. Release 24 hr PO once a day.  
7. Aspirin 81 mg Tablet Sig: One (1) Tablet PO once a day.  
8. Acetaminophen 500 mg Tablet Sig: Two (2) Tablet PO TID (3 
times a day) as needed for pain.  
9. Hydroxyurea 500 mg Capsule Sig: One (1) Capsule PO 3X/WEEK 
(___).  
10. Multivitamin     Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
11. Senna 8.6 mg Tablet Sig: One (1) Tablet PO HS (at bedtime) 
as needed for constipation.  
12. Docusate Sodium 100 mg Capsule Sig: One (1) Capsule PO BID 
(2 times a day).  
13. Heparin (Porcine) 5,000 unit/mL Solution Sig: One (1)  
Injection TID (3 times a day).  
14. Vancomycin in D5W 1 gram/200 mL Piggyback Sig: 1000 (1000) 
mg Intravenous Q48H (every 48 hours) for 8 days: To be completed 
___.  
15. Magnesium Hydroxide 400 mg/5 mL Suspension Sig: Thirty (30) 
ML PO Q6H (every 6 hours) as needed for constipation.  
16. Fluticasone-Salmeterol 250-50 mcg/Dose Disk with Device Sig: 
One (1)  Inhalation twice a day.  
17. Furosemide 20 mg Tablet Sig: Two (2) Tablet PO DAILY 
(Daily).  
18. Lidocaine 5 %(700 mg/patch) Adhesive Patch, Medicated Sig: 
One (1) Adhesive Patch, Medicated Topical DAILY (Daily).  
19. Ipratropium Bromide 0.02 % Solution Sig: One (1)  Inhalation 
every six (6) hours.  
20. Metoprolol Succinate 200 mg Tablet Sustained Release 24 hr 
Sig: One (1) Tablet Sustained Release 24 hr PO DAILY (Daily).  
21. Metoprolol Succinate 25 mg Tablet Sustained Release 24 hr 
Sig: One (1) Tablet Sustained Release 24 hr PO once a day.  
22. Meropenem 500 mg Recon Soln Sig: One (1) Recon Soln 
Intravenous Q8H (every 8 hours) for 8 days: To be completed 
___.  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
___ Diagnosis:
Primary:
Acute CHF exacerbation
Pneumonia
Lung collapse
Atrial fibrillation with rapid ventricular rate

 
Discharge Condition:
A&Ox3

 
Discharge Instructions:
We had the pleasure of taking care of you while you were at the 
___.  You were admitted because you fell and because of 
shortness of breath.  Your shortness of breath was from volume 
overload from your heart failure, lung collapse, and infection.  
We treated you with lasix, antibiotics, and inhalers.  You also 
had a very fast heart rate due to your atrial fibrillation.  We 
increased your metoprolol and started you on a new medication 
called digoxin.  While you were here we did a chest CT that 
showed opacities and enlarged lymph nodes in the lung.  A 
pulmonologist saw you and you agreed that you did not want 
further invasive testing.  You also decided that you did not 
want any ICU tranfers and to change your code status from do not 
resuscitate (DNR) and okay to intubate, to DNR/DNI (do not 
resuscitate and do not intubate). 

We have made the following changes to your medications:
1. We have changed your metoprolol to metoprolol succinate daily 
for your atrial fibrillation
2. We have started you on digoxin for atrial fibrillation
3. We have stopped your cephalexin
4. We have started you on lidocaine patch for pain
5. We have started you on vancomycin and meropenem for 
aspiration pneumonia
6. We have increased your lasix dose to 40mg daily
7. We have stopped your coumadin

If you feel lightheaded or your blood pressure drops, you should 
not take your lasix.
 
Followup Instructions:
___